US09353107B2
Step-iii: N-(3-(3-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methanesulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(3-(3-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methane sulfon amide (250 mg, 0.39 mmol) was hydrolyzed with lithium hydroxide (66 mg, 1.6 mmol) in THF/water/methanol (4/3/1 ml) mixture to afford 15 mg (9.57% yield) of the pure product after purification by prep TLC using 2% methanol in DCM as eluent. 1H NMR (DMSO-d6, 300 MHz): δ 11.79 (s, 1H), 9.83 (s, 1H), 8.469 (s, 1H), 8.33-8.31 (d, 2H), 7.91 (s, 1H), 7.75 (s, 1H), 7.52-7.43 (m, 3H), 7.27-7.22 (t, 3H), 6.91-6.89 (d, 2H), 5.28 (s, 2H), 3.72 (s, 3H), 3.05 (s, 3H). MS: m/z=474.2 (M+1), HPLC: 94.18% in Method-C.

reactant | N-(3-(3-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methane sulfon amide | 0.39 mmol, 250 mg | COC1=CC=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=C(C=CC3)NS(=O)(=O)C)S(=O)(=O)C3=CC=C(C)C=C3)C=C1 | C32H29N5O5S2
reactant | lithium hydroxide | 1.6 mmol, 66 mg | [OH-].[Li+]
solvent | THF water methanol | 1 ml | C1CCOC1.O.CO
product | N-(3-(3-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methanesulfonamide | 15 mg, 9.57% yield | COC1=CC=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=C(C=CC3)NS(=O)(=O)C)C=C1 | C25H23N5O3S
